US07714126B2
With a method similar to example 16 above, 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid-[6-(2-methoxy-1-methyl-ethylamino)pyridin-3-yl]amide hydrogen chloride was prepared from 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid and N-(2-methoxy-1-methyl-ethyl)-2,5-diaminopyridine. The purified oily material from column chromatography was dissolved in ether and treated with gaseous hydrogen chloride in ether (3N) to give a white precipitate as a hydrochloride salt. LCMS calcd for the neutral form C20H19F3N4O3 m/e 420.39, obsd 421.02 (ES, M+H).

reactant | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)O)C(F)(F)F | C11H6F3NO3
reactant | N-(2-methoxy-1-methyl-ethyl)-2,5-diaminopyridine | COCC(C)N1C(C=CC(=C1)N)N | C9H17N3O
reactant | hydrogen chloride | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | ether | 3N | CCOCC | C4H10O
product | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid-[6-(2-methoxy-1-methyl-ethylamino)pyridin-3-yl]amide hydrogen chloride | Cl.COCC(C)NC1=CC=C(C=N1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | InChI=1S/C20H19F3N4O3.ClH/c1-12(11-29-2)25-15-9-8-14(10-24-15)26-18(28)16-17(20(21,22)23)30-19(27-16)13-6-4-3-5-7-13;/h3-10,12H,11H2,1-2H3,(H,24,25)(H,26,28);1H
